US09169246B2
Step 20.2. 7-[2-(4-cyclopropylpiperazin-1-yl)pyrid-3-yl]-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride
The product is obtained according to the procedure described in Step 1.7. starting with 7-[2-(4-cyclopropylpiperazin-1-yl)pyrid-3-yl]-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one and 7-[2-(4-cyclopropyl-piperazin-1-yl)pyrid-3-yl]-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one, in the form of a white powder (3 hydrochloride, 3H2O; yield 70%).

reactant | 7-[2-(4-cyclopropylpiperazin-1-yl)pyrid-3-yl]-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | C1(CC1)N1CCN(CC1)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3C3OCCCC3 | C29H31F3N6O2
reactant | 7-[2-(4-cyclopropyl-piperazin-1-yl)pyrid-3-yl]-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | C1(CC1)N1CCN(CC1)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)CN(N3)C3OCCCC3 | C29H33F3N6O2
reactant | hydrochloride | Cl | ClH
product | 7-[2-(4-cyclopropylpiperazin-1-yl)pyrid-3-yl]-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride | yield 70% | Cl.C1(CC1)N1CCN(CC1)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3 | InChI=1S/C24H23F3N6O.ClH/c25-24(26,27)14-33-20-12-15(3-6-18(20)21-19(23(33)34)13-29-30-21)17-2-1-7-28-22(17)32-10-8-31(9-11-32)16-4-5-16;/h1-3,6-7,12-13,16H,4-5,8-11,14H2,(H,29,30);1H
